US07863220B2
Step B: Preparation of ethyl 5-bromo-2-cyclopropyl-1,6-dihydro-6-oxo-4-pyrimidinecarboxylate
To a solution of 2-cyclopropyl-6-(diethoxymethyl)-4(1H)-pyrimidinone (i.e. the title product of Step A) (2.9 g, 12.1 mmol) in dichloromethane (75 mL) was added N-bromosuccinimide (4.76 g, 26.8 mmol). The reaction mixture was stirred overnight. The solvent was removed with a rotary evaporator. The residue was purified by MPLC (1→4% methanol in dichloromethane as eluant) to afford the title compound as a white solid (2.68 g).

reactant | 2-cyclopropyl-6-(diethoxymethyl)-4(1H)-pyrimidinone | C1(CC1)C=1NC(=CC(N1)=O)C(OCC)OCC | C12H18N2O3
reactant | N-bromosuccinimide | 26.8 mmol, 4.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | ethyl 5-bromo-2-cyclopropyl-1,6-dihydro-6-oxo-4-pyrimidinecarboxylate | BrC1=C(N=C(NC1=O)C1CC1)C(=O)OCC | C10H11BrN2O3
